Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rt sided numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ RH F with PMHx significant for CAD 
(s/p
___ MIs and 6 stents), HTN, and HLD who presents to ___ ED with
sudden onset of R hemibody parasthesias.
Ms. ___ reports that she was in her usual state of health on
the day of presentation. She did have a bit of a headache upon
awaking which she attributes to being "hung over." She attended 
a
gala the evening prior and was staying in a hotel. She did not
have her home medications with her, and did not take any this
morning. She did take an ibuprofen for her headache, with
significant improvement.
At 4PM, she drove to the mall. She was feeling well until she 
got
inside the mall when she had sudden onset of R face, arm, and 
leg
"pins and needles." The R leg symptoms resolved in a few 
minutes,
but the symptoms in her R hand and face persisted. She describes
the feeling as alternating between "pins and needles" and
"complete loss of sensation." 
Ms. ___ drove home from the mall and noted that her R arm felt
"heavy." She is uncertain if it was actually weak when she was
trying to grab the steering wheel, and thinks that this was more
likely an issue with not being able to feel the hand.
When she got home and told her roommate about her symptoms, the
roommate drove her to ___ ED. At ___, 
her
VSS and a NCHCT was read as normal. She was sent to ___ ED for
further evaluation and treatment.
Currently, Ms. ___ reports that her symptoms are almost
completely resolved. She does have a small amount of numbness of
the R hemiface, but feels "90%" back to normal. She denies any
similar symptoms in the past. She denies visual changes, speech
difficulty, or confusion. No bowel or bladder difficulties. No
chest pain. HA is now resolved. She does report "quick sharp
pains" over the left temple in the past week or so, which she 
has
attributed to her usual "migraines."

 
Past Medical History:
PAST MEDICAL HISTORY:
- CAD
  - 4 prior MIs (most recent was ___ years ago)
  - s/p 6 stents (most recent was ___ years ago)
- HTN
- HLD

HOME MEDICATIONS:
- ___ 81mg qD
- plavix 75mg qD
- lisinopril 20mg qD
- metoprolol XL 100mg qD
- ___ 40mg qD

 
Social History:
___
Family History:
FAMILY HISTORY:
MGF - stroke in ?___, MI
Father - MI in ___

 
Physical Exam:
=
================================================================
PHYSICAL EXAMINATION:
VS T96.9 HR67 BP127/58 RR16 Sat98RA
GEN - well appearing, well developed
HEENT - NC/AT, MMM, L temple is non-TTP
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

___ Stroke Scale - Total [1]
1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 0
5a. Motor arm, left - 0
5b. Motor arm, right - 0
6a. Motor leg, left - 0
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 1
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history. Structure of 
speech
demonstrates fluency with full sentences, and normal prosody. No
paraphasic errors. Intact repetition, naming, reading, and
comprehension. Verbal registration and recall ___. No evidence 
of
apraxia or neglect.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. Normal saccades. [V] Reports decriment 
to
LT of RIGHT V2-V3, ~90% of normal. [VII] No facial movement
asymmetry with forced eyelid closure or volitional smile. [VIII]
Hearing intact to finger rub bilaterally. [IX, X] Palate
elevation symmetric. No dysarthria. [XI] SCM/Trapezius strength
___ bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[EDB]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5

SENSORY - No deficits to light touch, pinprick, or 
proprioception
bilaterally. No extinction to double simultaneous tactile
stimulation. Sensation in RUE and RLE is at baseline.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response flexor bilaterally.

COORD - No dysmetria with finger to nose. Good speed and intact
cadence with rapid alternating movements. Negative Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway.

==================================
Discharge Physical Exam
Gen: Not in acute distress
Neuro:
MS- AA, speech is fluent and coherent, answering questions 
appropriately
CN- PERRL, EOMI, no facial droop
Motor- full strength throughout, no drift
Sensory- Intact to light touch throughout
Coordination- No dysmetria on FNF

 
Pertinent Results:
___ 09:20PM URINE  HOURS-RANDOM
___ 09:20PM URINE  UCG-NEGATIVE
___ 09:20PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:20PM URINE  RBC-4* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 06:41PM   CREAT-1.0
___ 06:41PM   estGFR-Using this
___ 06:39PM   GLUCOSE-91 NA+-143 K+-4.0 CL--105 TCO2-28
___ 06:24PM   UREA N-18
___ 06:24PM   TRIGLYCER-384*
___ 06:24PM   cTropnT-<0.01
___ 06:24PM   TSH-2.4
___ 06:24PM   WBC-7.6 RBC-4.05 HGB-12.7 HCT-37.4 MCV-92 
MCH-31.4 MCHC-34.0 RDW-12.4 RDWSD-42.0
___ 06:24PM   PLT COUNT-185
___ 06:24PM   ___ PTT-22.3* ___

Brain MRI
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Mild mucosal thickening within the bilateral maxillary 
sinuses with a small 
air-fluid level within the right maxillary sinus which may be 
seen with acute 
sinusitis. 

ECHO: 
The left atrium is normal in size. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). No masses or thrombi are seen in the left 
ventricle. There is no ventricular septal defect. The right 
ventricular cavity is borderline dilated with normal free wall 
contractility. The aortic valve leaflets are mildly thickened 
(?#). There is no aortic valve stenosis. No aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. There 
is no mitral valve prolapse. No mitral regurgitation is seen. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.

 IMPRESSION: Normal biventricular systolic function. No 
pathologic valvular flow. No cardiac source of embolism 
identified.  
 
Brief Hospital Course:
Ms. ___ is a ___ RH F with PMHx significant for CAD 
(s/p ___ MIs and 6 stents), HTN, and HLD who presented to ___ ED 
with sudden onset of R hemibody parasthesias, now resolved.  By 
history, her symptoms are concerning for TIA/CVA. The R hemibody 
sensory loss with no other cortical symptoms is suspicious for a 
small vessel etiology, perhaps in the posterior circulation 
affecting the thalamus.
Her exam is currently nearly back to her baseline. NCHCT and CTA 
were reassuring with patent vasculature.  Brain MRI didn't show 
any evidence of stroke.  Given this history (multiple risk 
factory)/physical exam and present radiological findings, 
symptoms are most likely related to TIA.  Patient had ECHO done 
which was unremarkable and was sent home on 30 day cardiac 
monitor.

Patient to follow up with PCP ___ ___ weeks and Neurology 
within 3 months. 

#NEURO: TIA
  - stroke labs: TSH (2.4), A1c (5.8), LDL (pending)
- TREATMENT
  - s/p ___ 325mg in ED, continue 81mg qD
  - goal normotension
  - continue home ___, and Plavix
- MONITORING
  - 30 day cardiac monitor

#CV - PMHx of ___ MIs and s/p 6 stents
- continue home metoprolol and lisinopril
- continue home ___ and Plavix
- ECHO: Unremarkable

#FEN/GI
- regular diet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Rosuvastatin Calcium 40 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the Neurology Service after presenting to 
ED for evaluation of right sided numbness that resolved 
spontaneously.  Images from your brain didn't show any evidence 
of acute stroke.  Given your history (multiple vascular risk 
factors: heart disease, elevated blood pressure and high 
cholesterol) and physical findings, these symptoms are most like 
related to a transient ischemic attack.  Cardiac echo was done 
which was unremarkable****.  We recommended to continue taking 
your current home medications and follow up with your primary 
care provided within ___ weeks.  We also recommended to go home 
with a cardiac monitor x 30 days.
 
Followup Instructions:
___